US05721255
2-Methoxy-5-methanesulfonylbenzaldehyde
Under N2 in a round-bottomed flask fitted with a condensor, 2-methoxy-5-methylthiobenzaldehyde (0.89 g, 4.9 mmol) was added to 0.6 mL of EtOH. To this, a solution of monoperoxyphthalic acid magnesium salt hexahydrate (2.41 g, 4.9 mmol) in 10.4 mL of H2O was added and the mixture was heated at 95° C. for 18 hours. The reaction was then quenched with 10 mL of H2O, extracted with CH2Cl2 (4×10 mL) and the combined organics were dried over MgSO4 and concentrated in vacuo to an oil, 0.34 g. Flash chromatography on silica gel, eluting with EtOAc:hexanes (2.98) gave the pure title compound as a white solid, 0.36 g, m.p. 140°-143° C. 1H NMR (CDCl3) δ3.05 (s, 3H), 4.05 (s, 3H), 7.2 (d, 1H), 8.15 (dd, 1H), 8.40 (d, 1H), 10.5 (s, 1H).

reactant | 2-methoxy-5-methylthiobenzaldehyde | 4.9 mmol, 0.89 g | COC1=C(C=S)C=C(C=C1)C | C9H10OS
reactant | EtOH | 0.6 mL | CCO | C2H6O
reactant | monoperoxyphthalic acid magnesium salt hexahydrate | 4.9 mmol, 2.41 g | O.O.O.O.O.O.[Mg+2].C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-]
solvent | H2O | 10.4 mL | O | H2O
product | 2-Methoxy-5-methanesulfonylbenzaldehyde | COC1=C(C=O)C=C(C=C1)S(=O)(=O)C | C9H10O4S
